US04622415
A solution of 51.4 g (0.124 mol) of the R enantiomer of ethyl 2-[3-(2,6-dichloro-4-trifluoromethyl-phenoxy)phenoxy]-propionate in 95 ml of ethanol was added dropwise to a stirred solution of 5.9 g (0.148 mol) of sodium hydroxide in 145 ml of water at 0° C. During this procedure, the reaction mixture foamed to such an extent that, after 2/3 of the ester solution had been added, a further 10 ml of ethanol had first to be introduced into the reaction mixture before the remainder of the ester solution could be added. Stirring was continued for a further 16 hours, while cooling with ice, and working-up was then carried out by acidifying the mixture with hydrochloric acid, extracting the resulting mixture three times with methylene chloride, drying the extracts and evaporating them down. The remaining residue was boiled with petroleum ether, and the hot mixture was filtered under suction. In this manner, 47.6 g (97.1% of theory) of the R enantiomer of 2-[3-(2,6-dichloro-4-trifluoromethyl-phenoxy)-phenoxy]-propionic acid were obtained in the form of a solid substance of melting point 120° C.

reactant | ethyl 2-[3-(2,6-dichloro-4-trifluoromethyl-phenoxy)phenoxy]-propionate | ClC1=C(OC=2C=C(OC(C(=O)OCC)C)C=CC2)C(=CC(=C1)C(F)(F)F)Cl | C18H15Cl2F3O4
reactant | sodium hydroxide | 0.148 mol, 5.9 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 95 ml | C(C)O | C2H6O
solvent | water | 145 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-[3-(2,6-dichloro-4-trifluoromethyl-phenoxy)-phenoxy]-propionic acid | ClC1=C(OC=2C=C(OC(C(=O)O)C)C=CC2)C(=CC(=C1)C(F)(F)F)Cl | C16H11Cl2F3O4
